US06596738B1
A mixture of ethyl 1-[(2S,3R)-2-hydroxy-5-(2,3-dichlorophenyl)-3-pentyl]-1,2,4-triazole-3-carboxylate (11.6 mg) and ammonium hydroxide (28% in water; 0.5 ml) in tetrahydrofuran (3 ml) was heated in a steel sealed tube at 120° C. overnight. The mixture was taken up in dichloromethane, washed with water, dried, and evaporated. The residue was purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (20:1) to give a white powder of 1-[(2S,3R)-2-hydroxy-5-(2,3-dichlorophenyl)-3-pentyl]-1,2,4-triazole-3-carboxamide (4.2 mg).

reactant | ethyl 1-[(2S,3R)-2-hydroxy-5-(2,3-dichlorophenyl)-3-pentyl]-1,2,4-triazole-3-carboxylate | 11.6 mg | O[C@@H](C)[C@@H](CCC1=C(C(=CC=C1)Cl)Cl)N1N=C(N=C1)C(=O)OCC | C16H19Cl2N3O3
reactant | ammonium hydroxide | 0.5 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[(2S,3R)-2-hydroxy-5-(2,3-dichlorophenyl)-3-pentyl]-1,2,4-triazole-3-carboxamide | 4.2 mg | O[C@@H](C)[C@@H](CCC1=C(C(=CC=C1)Cl)Cl)N1N=C(N=C1)C(=O)N | C14H16Cl2N4O2
